US07141669B2
Preparation of Intermediate 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methyl-2H pyrazolo[4,3-d]pyrimidin-7-ol (I-4A-1a)
A mixture of 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester I-2A-1a (21.4 g, 57 mmol) and benzylthioacetimidate.HBr (12.6 g, 51 mmol) in pyridine was heated at 115° C. (see Yuan et al., Bioorg. & Med. Chem. Lett., 12, 2133–2136 (2002)). Additional benzylthioacetimidate.HBr (12.6 g) was added after 0.5 h and 1.5 h. The reaction mixture was stirred for an additional 1 h at 115° C. After cooling to room temperature, a yellow solid precipitated out of solution. The reaction mixture was poured over ice water and acidified with conc. HCl (210 ml). Additional ice was added to keep the reaction mixture cool. The yellow solid was collected by filtration and washed with H2O to give the desired product, I-4A-1a (24 g).

reactant | 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1N)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H15Cl2N3O2
reactant | benzylthioacetimidate | C(C1=CC=CC=C1)CC([S-])=N
reactant | HBr | 51 mmol, 12.6 g | Br | BrH
reactant | HBr | 12.6 g | Br | BrH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methyl-2H pyrazolo[4,3-d]pyrimidin-7-ol | ClC1=CC=C(C=C1)C=1N(N=C2C1N=C(N=C2O)C)C2=C(C=CC=C2)Cl | C18H12Cl2N4O
